US09216972B2
Preparation of 139A: 2-amino-4,5-dihydronaphtho[1,2-d]thiazol-7-ol
To 7-methoxy-4,5-dihydronaphtho[1,2-d]thiazol-2-amine (15 mg, 0.065 mmol) into dichloromethane (2 mL), cooled to 0° C. was added borontribromide (0.258 mL, 0.258 mmol) slowly at 0° C. The reaction mixture was allowed to warm to room temperature and stirred at room temperature overnight. The reaction mixture was quenched by the slow addition of a few drops of MeOH and purified by prep. HPLC (Luna 5 u C18 21.2*100 mm column; 0%-100% 10mins gradient; Solvent A: 10% MeOH-90% H2O-0.1% TFA; Solvent B: 90% MeOH-90% H2O-0.1% TFA). The desired fractions were collected, concentrated and dried under vacuum to provide 13.5 mg of the title compound as a white solid. LC/MS M+1=219.1. The product had an HPLC retention time=1.51 min. (condition A). 1H NMR (400 MHz, CD3OD) δ ppm 7.35 (1H, d, J=8.36 Hz), 6.71-6.83 (2H, m), 3.04 (2H, d, J=8.14 Hz), 2.78-2.90 (2H, m).

reactant | 7-methoxy-4,5-dihydronaphtho[1,2-d]thiazol-2-amine | 0.065 mmol, 15 mg | COC=1C=C2CCC3=C(N=C(S3)N)C2=CC1 | C12H12N2OS
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-amino-4,5-dihydronaphtho[1,2-d]thiazol-7-ol | 13.5 mg | NC=1SC2=C(N1)C1=CC=C(C=C1CC2)O | C11H10N2OS
